### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Galois): universal property of fundamental group

### PR DESCRIPTION
**Pull request by chrisflav**
We introduce a universal property for the automorphism group of a fiber functor for any topological group. In the further development of the Galois categories API, an arbitrary topological group satisfying this universal property shall be used in the place of `Aut F`, to prepare for later usages of this API in the case of e.g. `G` being the absolute Galois group of a field `k` and `F` being the fiber functor of the category of finite, étale `k`-algebras.

---

- [x] depends on: #16671
- [x] depends on: #16668 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Galois/Decomposition.lean [hunk 1]
```diff
@@ -308,6 +308,14 @@ lemma exists_hom_from_galois_of_connected (X : C) [IsConnected X] :
     ∃ (A : C) (_ : A ⟶ X), IsGalois A :=
   exists_hom_from_galois_of_fiber_nonempty F X inferInstance
 
+/-- To check equality of  natural transformations `F ⟶ F`, it suffices to check it on
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Decomposition.lean:311]:
```suggestion
/-- To check equality of natural transformations `F ⟶ F`, it suffices to check it on
```

File: Mathlib/CategoryTheory/Galois/Decomposition.lean [hunk 2]
```diff
@@ -308,6 +308,14 @@ lemma exists_hom_from_galois_of_connected (X : C) [IsConnected X] :
...
+Galois objects. -/
+lemma natTrans_ext_of_isGalois {t s : F ⟶ F} (h : ∀ (X : C) [IsGalois X], t.app X = s.app X) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Decomposition.lean:313]: It seems to me this could be generalized to natural transformations from `F` to any functor `G`, with the same proof.

File: Mathlib/CategoryTheory/Galois/IsFundamentalgroup.lean [hunk 3]
```diff
@@ -0,0 +1,284 @@
...
+-/
+universe u₁ u₂ w
+
+namespace CategoryTheory
+
+namespace PreGaloisCategory
+
+open Limits Functor
+
+variable {C : Type u₁} [Category.{u₂, u₁} C] (F : C ⥤ FintypeCat.{w})
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/IsFundamentalgroup.lean:56]:
```suggestion
variable {C : Type u₁} [Category.{u₂} C] (F : C ⥤ FintypeCat.{w})
```

File: Mathlib/CategoryTheory/Galois/IsFundamentalgroup.lean [hunk 4]
```diff
@@ -0,0 +1,284 @@
...
+  rw [continuousAt_def, map_one]
+  intro A hA
+  obtain ⟨X, _, hX⟩ := ((nhds_one_has_basis_stabilizers F).mem_iff' A).mp hA
+  rw [mem_nhds_iff]
+  exact ⟨MulAction.stabilizer G X.pt, Set.preimage_mono (f := toAut F G) hX,
+    stabilizer_isOpen G X.pt, one_mem _⟩
+
+variable {G}
+
+lemma action_ext_of_isGalois {t : F ⟶ F} {X : C} [IsGalois X] {g : G} (x : F.obj X)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/IsFundamentalgroup.lean:116]: It may make sense and be also true if the target of `t` is another functor?

File: Mathlib/CategoryTheory/Galois/IsFundamentalgroup.lean [hunk 5]
```diff
@@ -0,0 +1,284 @@
...
+  transitive_of_isGalois X := FiberFunctor.isPretransitive_of_isConnected F X
+  continuous_smul X := continuousSMul_aut_fiber F X
+  non_trivial' g h := by
+    ext X x
+    exact h X x
+
+variable [TopologicalSpace G] [TopologicalGroup G] [CompactSpace G] [IsFundamentalGroup F G]
+
+lemma toAut_bijective : Function.Bijective (toAut F G) where
+  left := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/IsFundamentalgroup.lean:244]: Could you extract a lemma `toAut_injective_of_non_trivial` similarly as for the surjectivity?

File: Mathlib/CategoryTheory/Galois/Decomposition.lean (hunk 2 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Galois/Decomposition.lean]: Indeed, this works. Changed.

**Comment by joelriou** [comment]
Thanks!

bors merge

**Comment by chrisflav** [comment]
Thanks for the review!

**Comment by chrisflav** [comment]
Is there some issue with bors? It has been saying "Pending - Waiting in queue" since 8 hours and clicking on details gives "Internal server error". Maybe it needs another `bors r+`?

**Comment by bryangingechen** [comment]
Ah, this may have fallen off the queue when bors crashed.
bors r+

In case something else happens again
bors d+
